US07053104B2
1-(2-Chlorophenyl)-2-methyl-2-nitropropane
2-Nitropropane (3.19 mL, 35.5 mmol) was added to a mixture of sodium hydride (0.85 g, 35 mmol) in methanol (15 mL) cooled to 0° C. The reaction mixture was then stirred and allowed to warm to 25° C. for 10 min. The solvent was rotary evaporated to provide a white solid. A mixture of this solid and N-(2-chlorobenzyl)-2,4,6-triphenylpyridinium tetrafluoroborate (6.14 g, 11.8 mmol) in dimethyl sulfoxide (45 mL) was stirred under nitrogen gas for 16 h. Water was then added to quench the reaction. This mixture was then extracted with diethyl ether (3×100 mL). The organic layer was washed with saturated aqueous sodium chloride, dried (anhydrous sodium sulfate), and filtered. The filtrate was stirred in strongly acidic Amberlyst 15 ion-exchange resin (1 g/mmol) for 4 h. The reaction mixture was filtered and rotary evaporated. This provided 2.35 g (93%) of 1-(2-chlorophenyl)-2-methyl-2-nitropropane.

reactant | 2-Nitropropane | 35.5 mmol, 3.19 mL | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | sodium hydride | 35 mmol, 0.85 g | [H-].[Na+]
reactant | N-(2-chlorobenzyl)-2,4,6-triphenylpyridinium tetrafluoroborate | 11.8 mmol, 6.14 g | F[B-](F)(F)F.ClC1=C(C[N+]2=C(C=C(C=C2C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | Water | O | H2O
reactant | methanol | 15 mL | CO | CH4O
solvent | dimethyl sulfoxide | 45 mL | CS(=O)C | C2H6OS
product | 1-(2-Chlorophenyl)-2-methyl-2-nitropropane | ClC1=C(C=CC=C1)CC(C)([N+](=O)[O-])C | C10H12ClNO2
